US03994920
Condense 3-benzyl-3-hydroxyphthalide (15 g.) and ethylenediamine (30 ml.) by the procedure of Example 1 to obtain 9b-benzyl-1,2,3,9b-tetrahydro-5H-imidazo[2,1-a]isoindol-5-one, m.p. 115°-117° C. (elemental analysis confirms the empirical formula C17H16N2O), reduce with lithium aluminum hydride and treat with hydrogen chloride as described in Example 1 to obtain 1-benzyl-1,2,3,4,5,6-hexahydro-2,5-benzodiazocine dihydrochloride, m.p. 238°-40° C.

reactant | 3-benzyl-3-hydroxyphthalide | 15 g | C(C1=CC=CC=C1)C1(OC(=O)C2=CC=CC=C12)O | C15H12O3
reactant | ethylenediamine | 30 ml | C(CN)N | C2H8N2
product | 9b-benzyl-1,2,3,9b-tetrahydro-5H-imidazo[2,1-a]isoindol-5-one | C(C1=CC=CC=C1)C12N(C(C3=CC=CC=C13)=O)CCN2 | C17H16N2O
